US08232278B2
Synthesis of 6-chloro-4-[1,2,4]triazol-1-yl-pyrido[3,2-d]pyrimidin-2-ylamine
A solution of 1,2,4-triazole (1.4 g, 20 mmol) and phosphorus oxychloride (1.4 mL, 15 mmol) in dry acetonitrile (40 mL) was adder to a stirred suspension of 2-amino-6-chloro-3H-pyrido[3,2-d]pyrimidin-4-one (1 g, 5 mmol) and DIEA (4.4 mL, 25 mmol) in dry acetonitrile (30 mL). The mixture was stirred at room temperature for 24 hours. 2 molar equivalents of 1,2,4-triazole (0.7 g, 10 mmol), 1.5 equivalent of phosphorus oxychloride (0.7 mL, 7.5 mmol) and 2.5 equivalents of DIEA (2.2 mL, 12.5 mmol) were added to the mixture. After stirring at room temperature for 48 hours, the same amount of the above reagents was added again. The reaction mixture was stirred for 7 full days and the yellow precipitate was filtered off, washed successively with acetonitrile, DCM and ether. The solid was dried under vacuum, providing the pure title compound as a yellow solid (667 mg, yield 53%) which was characterised as follows: MS (m/z) 248.8 [M+H]+.

reactant | 1,2,4-triazole | 20 mmol, 1.4 g | N1N=CN=C1 | C2H3N3
reactant | phosphorus oxychloride | 15 mmol, 1.4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-amino-6-chloro-3H-pyrido[3,2-d]pyrimidin-4-one | 5 mmol, 1 g | NC=1NC(C2=C(N1)C=CC(=N2)Cl)=O | C7H5ClN4O
reactant | DIEA | 25 mmol, 4.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1,2,4-triazole | 10 mmol, 0.7 g | N1N=CN=C1 | C2H3N3
reactant | phosphorus oxychloride | 7.5 mmol, 0.7 mL, 1.5 equivalent | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DIEA | 12.5 mmol, 2.2 mL, 2.5 equivalents | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 6-chloro-4-[1,2,4]triazol-1-yl-pyrido[3,2-d]pyrimidin-2-ylamine | 667 mg, yield 53% | ClC=1C=CC=2N=C(N=C(C2N1)N1N=CN=C1)N | C9H6ClN7
